US09315459B2
Ethyl 4-hydroxy-4-(2-(4-tolylsulfanyl)phenyl)-piperidin-1-carboxylate
In a stirred reactor under nitrogen cover 2-(4-tolylsulfanyl)-phenyl bromide (600 g, 2.15 mol) was suspended in heptane (4.5 L). At room temperature 10M BuLi in hexane (235 mL, 2.36 mol) was added over 10 minutes. Only a small exotherm was noticed. The suspension was stirred for 1 hour at ambient temperature and then cooled down to −40° C. 1-Carbethoxy-4-piperidone (368 g, 2.15 mol) dissolved in THF (1.5 L) was added at a rate not faster than the reaction temperature was kept below −40° C. When the reaction has gone to completion, it was warmed to 0° C. and 1M HCl (1 L) was added keeping the temperature below 10° C. The acid aqueous phase was separated and extracted with ethyl acetate (1 L). The organic phases were combined and extracted with sodium chloride solution (15%, 1 L). The organic phase was dried over sodium sulphate and evaporated to a semi crystalline mass. It was slurried with ethyl ether (250 mL) and filtered off. Dried in a vacuum oven at 40° C. until constant weight.

reactant | 2-(4-tolylsulfanyl)-phenyl bromide | 2.15 mol, 600 g | C1(=CC=C(C=C1)SC1=C(C=CC=C1)Br)C | C13H11BrS
reactant | BuLi | 10M | [Li]CCCC
reactant | hexane | 2.36 mol, 235 mL | CCCCCC | C6H14
reactant | 1-Carbethoxy-4-piperidone | 2.15 mol, 368 g | C(=O)(OCC)N1CCC(CC1)=O | C8H13NO3
reactant | HCl | 1M, 1 L | Cl | ClH
solvent | heptane | 4.5 L | CCCCCCC | C7H16
solvent | THF | 1.5 L | C1CCOC1 | C4H8O
product | Ethyl 4-hydroxy-4-(2-(4-tolylsulfanyl)phenyl)-piperidin-1-carboxylate | OC1(CCN(CC1)C(=O)OCC)C1=C(C=CC=C1)SC1=CC=C(C=C1)C | C21H25NO3S
